data/mechanisms/records/IMS8-EQ8.113.json
{"mechanism_id": "IMS8-EQ8.113", "species": [{"species_id": "protonated_syn_benzaldoxime", "mapped_smiles": "[cH:1]1[cH:2][cH:3][cH:4][cH:5][c:6]1/[CH:7]=[N:8]/[OH2+:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "phenyl_nitrilium_carbenium_form", "mapped_smiles": "[cH:1]1[cH:2][cH:3][cH:4][cH:5][c:6]1[N:8]=[CH+:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "water", "mapped_smiles": "[OH2:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_syn_benzaldoxime"]}, {"state_id": "state_products", "species_ids": ["phenyl_nitrilium_carbenium_form", "water"]}], "steps": [{"step_id": "step_rd_phenyl_migration", "from_state": "state_precursor", "to_state": "state_products", "step_class": "displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "lone_pair", "atom_maps": [9]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rd_8_113", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_phenyl_migration", "support_type": "textbook_proposed", "locator": {"page": 218, "equation": "8.113", "figure": null, "panel": "single arrow, labelled 'rd'", "section": "Displacement reactions (rd) - 'Even \"hidden\" displacements can occur' paragraph, printed p. 216"}, "confidence": 0.85, "curator_note": "SUBSTRATE READ FROM THE DRAWING (top of printed p. 218): a benzene ring whose ipso carbon goes down-right to a carbon written 'C'; that carbon carries an H drawn below it and is double bonded (horizontal '=') to 'N'; the nitrogen carries, down-right, an 'OH2' whose oxygen bears a drawn '+'. The reaction arrow is labelled 'rd'. The products printed to the right are a benzene ring bonded to 'N', that N double bonded to 'CH' with a '+' drawn ABOVE THE CARBON of that CH, and, separately, '+ H2O'. THE TEXT THAT INTRODUCES IT is on printed p. 216 (a verso, two printed pages back -- printed p. 217 in between is the full-page Figure 8.9): 'Even \"hidden\" displacements can occur. In the loss of water from CI-protonated oximes, H2O is displaced by the migration of the phenyl group to the protonated hydroxyl (Equation 8.113; Maquestiau et al. 1980). Only syn-isomers were found to undergo this type of reaction.' So the drawn species is the CI-PROTONATED benzaldoxime, PhCH=N-OH2+, an even-electron [M+H]+ - NOT a 70 eV EI molecular ion (convention G); ms_context is therefore CI / [M+H]+ / activation 'chemical ionization' with electron_energy_ev null. ARC COUNT (convention D): Book draws 2 arc(s). Arc 1 starts on the bond between the ring ipso carbon and the 'C' of C=N, sweeps clockwise over the top and its head points down at the nitrogen - the phenyl group migrating with its bonding pair from carbon to nitrogen. Arc 2 is the small hook to the lower right: it starts on the N-O bond and curls down-right with its head pointing at the oxygen - the N-O bonding pair leaving with the oxygen, which is what expels the neutral water. Moves <1,2> ARE THE TWO DRAWN ARCS; NO move is implicit here - the reaction is entirely even-electron (heterolytic), both arcs are transcribed as two-electron moves, and together they account for every bond that changes (C(ipso)-C7 broken, C(ipso)-N8 formed, N8-O9 broken). A one-electron (fishhook) reading is excluded because precursor and both products are closed-shell: a homolytic reading would create unpaired electrons that none of the three printed species has. LOCALIZATION (convention B): the precursor mapped_smiles puts the charge on the oxygen exactly where the book draws it ([OH2+:9]: three bonds, no unpaired electron), so arc 2 has a real origin, and there is no radical anywhere in this record. RESONANCE (convention C): the book draws the product ion as Ph-N=CH with the '+' over the CARBON, i.e. the azomethine/carbenium resonance form, and that is exactly the form encoded ([N:8]=[CH+:7], a six-electron carbon). Its partner form is the phenyl nitrilium ion Ph-N+#CH (charge on nitrogen, C#N triple bond); the arrows as drawn produce the carbon-charged form, so that form is the one recorded. STEREOCHEMISTRY: the drawing places the phenyl and the OH2 on OPPOSITE sides of the C=N (phenyl up-left on carbon, OH2 down-right on nitrogen), which is the anti arrangement that lets the phenyl migrate to the nitrogen; this is transcribed as a defined trans C=N in the mapped SMILES ('/[CH:7]=[N:8]/'). The book calls the reactive isomer the 'syn' isomer (old aldoxime nomenclature, which references the C-H rather than the C-phenyl); the record encodes the GEOMETRY DRAWN and does not re-derive the syn/anti label."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 122.06, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_104", "species_id": "phenyl_nitrilium_carbenium_form", "step_id": "step_rd_phenyl_migration", "observed_mz": 104.0495, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
